US03980650
Under a nitrogen atmosphere 4.7 g. (0.03 mol) of bromobenzene dissolved in 35 ml. of anhydrous diethyl ether, are added to 0.42 g. (0.06 mol) of lithium. To the solution obtained, a solution of 0.03 mol o-aminobenzonitrile in 15 ml. of anhydrous diethyl ether is added dropwise at room temperature. After about 10 minutes, a solution of 0.03 mol diethylcyanamide in 10 ml. of anhydrous diethyl ether is added dropwise. The reaction mixture is then refluxed under the nitrogen atmosphere for 4 hours. The next day the mixture is decomposed by addition of water. The ethereal layer is separated off, washed with water, dried over sodium sulphate and concentrated by evaporation of solvent. Some petroleum ether (boiling range 28°-40°C.) is added to the residue, the solid is filtered off and crystallized from a mixture of methanol and water. 4-Amino-2-diethylaminoquinazoline, m.p. 125°-128°C., is obtained.

reactant | bromobenzene | 0.03 mol | BrC1=CC=CC=C1 | C6H5Br
reactant | lithium | 0.06 mol | [Li] | Li
reactant | o-aminobenzonitrile | 0.03 mol | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | diethylcyanamide | 0.03 mol | C(C)N(C#N)CC | C5H10N2
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Amino-2-diethylaminoquinazoline | NC1=NC(=NC2=CC=CC=C12)N(CC)CC | C12H16N4
